US09284284B2
c) 3-Bromo-7H[1,7]naphthyridin-8-one
5-Bromo-3-methyl-pyridine-2-carboxylic acid 1-dimethylamino-meth-(E)-ylideneamine (2.5 g, 9.25 mmol) was dissolved in THF (20 ml). KOtBu (1.565 g, 13.05 mmol) in THF (30 ml) was added dropwise and the reaction mixture was heated to reflux for 3 h and then cooled to rt. The pH was adjusted to 7 with concentrated HCl. The reaction mixture was concentrated. The brown solid obtained was triturated with water (10 ml). The solid thus obtained was collected by filtration (2 g, 8 mmol).

reactant | 5-Bromo-3-methyl-pyridine-2-carboxylic acid 1-dimethylamino-meth-(E)-ylideneamine | 9.25 mmol, 2.5 g | CN(\C=N\[H])C.BrC=1C=C(C(=NC1)C(=O)O)C
reactant | KOtBu | 13.05 mmol, 1.565 g | CC(C)(C)[O-].[K+]
reactant | HCl | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-Bromo-7H[1,7]naphthyridin-8-one | BrC=1C=NC=2C(NC=CC2C1)=O | C8H5BrN2O
